US08633200B2
Methyl 5-methyl-7-p-tolylpyrazolo[1,5-a]pyrimidine-6-carboxylate
To a stirred solution of 4-methylbenzaldehyde (723 mg, 6.02 mmol), 1H-pyrazol-5-amine (500 mg, 6.02 mmol), and methyl 3-oxobutanoate (769 mg, 6.62 mmol) in THF (80 mL) and heptane (20 mL) was added piperidine (10 mL, 0.101 mmol). The reaction mixture was heated at reflux for 20 h. The solvent was evaporated and the crude material was dissolved in CH2Cl2. DDQ (1229 mg, 5.42 mmol) was added and the mixture was stirred at room temperature for 1 h. The solvent was evaporated. Purification by silica gel chromatography provided the title compound (1120 mg, 66.2%). 1H-NMR (500 MHz, CD Cl3) δ ppm 2.44 (3H, s), 2.65 (3H, s), 3.63 (3H, s), 6.65 (1H, d, J=2.4 Hz), 7.34 (2H, d, J=8.1 Hz), 7.52 (2H, d, J=8.1 Hz), 8.10 (1H, d, J=2.4 Hz).

reactant | 4-methylbenzaldehyde | 6.02 mmol, 723 mg | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | 1H-pyrazol-5-amine | 6.02 mmol, 500 mg | N1N=CC=C1N | C3H5N3
reactant | methyl 3-oxobutanoate | 6.62 mmol, 769 mg | O=C(CC(=O)OC)C | C5H8O3
reactant | DDQ | 5.42 mmol, 1229 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | heptane | 20 mL | CCCCCCC | C7H16
catalyst | piperidine | 0.101 mmol, 10 mL | N1CCCCC1 | C5H11N
product | Methyl 5-methyl-7-p-tolylpyrazolo[1,5-a]pyrimidine-6-carboxylate | 1120 mg, 66.2% | CC1=NC=2N(C(=C1C(=O)OC)C1=CC=C(C=C1)C)N=CC2 | C16H15N3O2
